US07153878B2
4-Bromo-2,2-dimethyl-3-oxo-hexanoic acid methyl ester
A solution of bromine (24 g, 150 mmol) in chloroform (30 mL) is added to 2,2-dimethyl-3-oxo-hexanoic acid methyl ester (25.9 g, 150 mmol) in chloroform (126 mL) at 0–5° C. dropwise. After the addition of bromine, the mixture is allowed to warm up to room temperature slowly and stirred overnight. The reaction is then quenched by ice water, the layers are separated. The organic layer is washed with cold water and brine, dried over sodium sulfate. Concentration gave the title compounds (36.9 g), which is used for next step without further purification.

reactant | bromine | 150 mmol, 24 g | BrBr | Br2
reactant | 2,2-dimethyl-3-oxo-hexanoic acid methyl ester | 150 mmol, 25.9 g | COC(C(C(CCC)=O)(C)C)=O | C9H16O3
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 126 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-2,2-dimethyl-3-oxo-hexanoic acid methyl ester | 36.9 g | COC(C(C(C(CC)Br)=O)(C)C)=O | C9H15BrO3
